US06927230B2
To a mixture of 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazole-3-thiol (470 mg, 1.5 mmol) in 1N sodium hydroxide solution (5 mL), was added iodomethane (0.934 mL, 15 mmol). The mixture was shaken overnight. Dichloromethane and water were added to the mixture and the organic layer was separated, washed with 0.1 N hydrochloric acid and sat sodium bicarbonate, and brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure.The generated precipitate was isolated by filtration, washed with diisopropyl ether, and dried in vacuo to give 1,5-bis(4-methoxyphenyl)-3-(methylthio)-1H-1,2,4-triazole (235 mg, 47.9% yield).

reactant | 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazole-3-thiol | 1.5 mmol, 470 mg | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)S | C16H15N3O2S
reactant | iodomethane | 15 mmol, 0.934 mL | IC | CH3I
reactant | Dichloromethane | ClCCl | CH2Cl2
reactant | water | O | H2O
solvent | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
product | 1,5-bis(4-methoxyphenyl)-3-(methylthio)-1H-1,2,4-triazole | 235 mg, 47.9% yield | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)SC | C17H17N3O2S
